US07605172B2
Step 2: 5-({[6-(2-Phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole.
A mixture of {[6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile (204 mg, 0.596 mmol), prepared in the previous step, sodium azide (119 mg, 1.82 mmol) and ammonium chloride (98 mg, 1.82 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for 5 h. The reaction was partitioned between 10% methanol-methylene chloride and 1 N HCl. The organic layer was separated, extracted three times with water, dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound (87 mg, 37%) as a white solid, mp 226-228° C. Elemental Analysis for C21H15N5OS+0.23 H2O Calc'd: C, 64.74; H, 4.00; N, 17.98. Found: C, 63.46; H, 4.08; N, 16.95

reactant | {[6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile | 0.596 mmol, 204 mg | C1(=CC=CC=C1)C=1SC=C(N1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C21H14N2OS
reactant | sodium azide | 1.82 mmol, 119 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.82 mmol, 98 mg | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-({[6-(2-Phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole | 87 mg, 37% | C1(=CC=CC=C1)C=1SC=C(N1)C=1C=C2C=CC(=CC2=CC1)OCC1=NN=NN1 | C21H15N5OS
